US05177096
A mixture of methyl 3-acetoxy-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-2-[(2-thienyl)methyl]propanoate (4.36 g, 8.92 mmol) in dry toluene (80 mL) was treated with 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU) (3.2 mL, 21.4 mmol), and the resulting solution was heated at 80° C. under argon for 3 hours. The solvent was evaporated, the residue triturated with ether and activated charcoal was added. After filtration, the filtrate was concentrated to 6.29 g of an oil that was chromatographed over silica gel with 65:35 hexane/ethyl acetate to give 2.89 g (76%) of methyl (E)-3-[2-n-butyl-1-[(2-chlorophenyl)methyl]-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate whose NMR and TLC (50% ethyl acetate in hexane on silica gel) were identical to the product prepared by Method A.

reactant | methyl 3-acetoxy-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-2-[(2-thienyl)methyl]propanoate | 8.92 mmol, 4.36 g | C(C)(=O)OC(C(C(=O)OC)CC=1SC=CC1)C1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC | C25H29ClN2O4S
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 21.4 mmol, 3.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (E)-3-[2-n-butyl-1-[(2-chlorophenyl)methyl]-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoate | 2.89 g, 76% | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=C(C=CC=C1)Cl | C23H25ClN2O2S
